US07053173B2
4,4″-dichlorosulfonyl1,1′:4′,1″-terphenyl (8.576 g, 20 mmol) synthesized in process 1-a is dissolved in tetrahydrofuran (THF) solvent (300 ml), add lithium aluminium hydride (8.586 g, 200 mmol, 10 eq.) and refluxed for 3 hours. The obtained reacted mixture is poured into ice water, and adjusted the pH to 1 or less by adding concentrated hydrochloric acid. Deposited impurity is removed by suction filtration, then washed by methylene chloride completely. After that, the filtrate is extracted by acid-base extraction (CH2Cl2, NaOH, HCl), the organic phase is dried up using magnesium sulfate and recrystalyzed. Thus, light yellowish crystal of 4,4″-dimercapto-1,1′:4′,1″-terphenyl (3.003 g, 10.2 mmol, 51%) is obtained (compound G).

reactant | 4,4″-dichlorosulfonyl1,1′:4′,1″-terphenyl | 20 mmol, 8.576 g | ClS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H12Cl2O4S2
reactant | lithium aluminium hydride | 200 mmol, 8.586 g, 10 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4,4″-dimercapto-1,1′:4′,1″-terphenyl | 10.2 mmol, 3.003 g, 51% | SC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)S | C18H14S2
